US04002647
3.76 g. of 3,7-dimethyl-7-methoxy-1-octanol are dissolved in 20 ml. of anhydrous pyridine and mixed, while stirring and with ice cooling, with 4.2 g. of p-toluenesulfochloride. Subsequently, the solution is left overnight at 5° C., then poured onto ice-water and extracted three times with diethyl ether. The extracts are washed successively with cold 2-N aqueous hydrochloric acid solution, water and twice with saturated aqueous sodium chloride solution, dried over sodium sulfate/potassium carbonate and evaporated under reduced pressure, finally at 0.05 mmHg. There is obtained 3,7-dimethyl-7-methoxy-octyl p-toluenesulfonate; nD20 = 1.4927.

reactant | 3,7-dimethyl-7-methoxy-1-octanol | CC(CCO)CCCC(C)(OC)C | C11H24O2
reactant | p-toluenesulfochloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,7-dimethyl-7-methoxy-octyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCC(CCCC(C)(OC)C)C)C | C18H30O4S
